US08026357B2
1.-3-1 Preparation of p-dodecyl Benzoyl Chloride
In a 3 L-three-neck flask equipped with a mechanical stirrer, a thermometer, a condenser tube and a dropping funnel, 200 g of p-dodecyloxy benzoic acid (produced by Wako Pure Chemical Industries, Ltd.) and 300 mL of toluene were placed, and stirred at room temperature. In the flask, 240 g of thionyl chloride (produced by Wako Pure Chemical Industries, Ltd.) and 10 mL of dimethylformamide were gradually and dropwise added to it, and after the addition, this was further stirred at 80° C. for one hour. After the reaction, toluene and unreacted thionyl chloride were distilled away under reduced pressure; and then 190 g of a white solid of target p-dodecyloxy benzoyl chloride deposited.

reactant | p-dodecyloxy benzoic acid | 200 g | C(CCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C19H30O3
reactant | thionyl chloride | 240 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | p-dodecyl Benzoyl Chloride | C(CCCCCCCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C19H29ClO
